US04089588
(c) 2-(p-butoxyphenyl)-3-(p-heptylphenyl)-acrylonitrile.
9.4 g of p-butoxyphenylacetonitrile and 10.2 g of p-heptylbenzaldehyde are dissolved in 30 ml of methanol. 5 ml of a 40% solution of benzyltrimethylammoniumhydrate in water are added to the solution. The whole is heated at 70° C for 30 minutes and then cooled. The precipitate is sucked off and recrystallized from successively methanol and petroleum ether (60 : 80). Melting point of the resulting compound is 34.5°-35.5.° C.

reactant | p-butoxyphenylacetonitrile | 9.4 g | C(CCC)OC1=CC=C(C=C1)CC#N | C12H15NO
reactant | p-heptylbenzaldehyde | 10.2 g | C(CCCCCC)C1=CC=C(C=O)C=C1 | C14H20O
reactant | benzyltrimethylammoniumhydrate | O.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | 2-(p-butoxyphenyl)-3-(p-heptylphenyl)-acrylonitrile | C(CCC)OC1=CC=C(C=C1)C(C#N)=CC1=CC=C(C=C1)CCCCCCC | C26H33NO
